US20010009965A1
Preparation of 5-Bromo-3, 5-Dimethoxy Benzene.
100 mmol of 3,5-dimethoxyaniline were mixed with 75 ml of 48% hydrobromic acid. 150 mmol of sodium nitrite powder were added portionally over 20 minutes with rigorous stirring. The reaction was monitored by iodine-starch test paper until the paper turned blue. The resulting diazonium salt solution was added to a pre-prepared boiling solution of 50 mmol copper (I) bromide in 7 ml of 48% hydrobromic acid. The addition was complete after 20 minutes. The reaction mixture was then heated for 30 minutes with rigorous stirring. Steam distillation of the reaction mixture provided a white solid product with a yield of 40%.

reactant | 3,5-dimethoxyaniline | 100 mmol | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | sodium nitrite | 150 mmol | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 7 ml | Br | BrH
reactant | hydrobromic acid | 75 ml | Br | BrH
catalyst | copper (I) bromide | 50 mmol | [Cu]Br
product | 5-Bromo-3, 5-Dimethoxy Benzene | yield of 40% | BrC1(CC(=CC=C1)OC)OC | C8H11BrO2
